US09402841B2
Step F: 8-methoxy-1-oxo-1,2-dihydroisoquinoline-3-carboxamide
To a vessel containing NH3/MeOH (20 mL) was added methyl 8-methoxy-1-oxo-1,2-dihydroisoquinoline-3-carboxylate (800 mg, 3.43 mmol). The vessel was sealed and the solution was stirred at 50° C. for 16 hours. The reaction mixture was subsequently concentrated in vacuo to give the title compound, which was used without further purification (800 mg). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.22 (s, 1H), 7.80 (s, 1H), 7.66 (t, 1H, J=8.0 Hz), 7.19-7.22 (m, 2H), 7.09 (d, J=8.0 Hz, 1H), 3.85 (s, 3H); ESI-MS m/z [M+H]+219.

reactant | methyl 8-methoxy-1-oxo-1,2-dihydroisoquinoline-3-carboxylate | 3.43 mmol, 800 mg | COC=1C=CC=C2C=C(NC(C12)=O)C(=O)OC | C12H11NO4
reactant | NH3 MeOH | 20 mL | N.CO
product | 8-methoxy-1-oxo-1,2-dihydroisoquinoline-3-carboxamide | COC=1C=CC=C2C=C(NC(C12)=O)C(=O)N | C11H10N2O3
